US07638517B2
To a −78° C. solution of 4-chloro-1H-pyrrolo[2,3-b]pyridine (prepared as described in WO03/082289, 1.44 g, 9.47 mmol) in THF (75 ml) was slowly added a 1.4 M solution of n-BuLi in THF (7.4 ml). The resulting mixture was stirred for 10 minutes, and then tert-butyl-dimethylsilyl chloride (1.4 g, 9.47 mmol) was added to the mixture. The reaction mixture was warm to RT overnight and partitioned between H2O and EtOAc. The organic layer was separated, washed with brine, dried, filtered, concentrated, and purified via flash chromatography (hexane/EtOAc) affording 1-(tert-Butyl-dimethyl-silanyl)-4-chloro-1H-pyrrolo[2,3-b]pyridine as a clear oil (2.0 g, 62% yield).

reactant | 4-chloro-1H-pyrrolo[2,3-b]pyridine | 9.47 mmol, 1.44 g | ClC1=C2C(=NC=C1)NC=C2 | C7H5ClN2
reactant | n-BuLi | [Li]CCCC
reactant | tert-butyl-dimethylsilyl chloride | 9.47 mmol, 1.4 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | THF | 7.4 ml | C1CCOC1 | C4H8O
product | 1-(tert-Butyl-dimethyl-silanyl)-4-chloro-1H-pyrrolo[2,3-b]pyridine | 2.0 g, 62% yield | C(C)(C)(C)[Si](N1C=CC=2C1=NC=CC2Cl)(C)C | C13H19ClN2Si
